US04526890
13.4 Grams (0.0845 mole) of 3-chloro-4-methyl-6-hydrazinopyridazine are dissolved in 100 milliliters of aqueous 88 percent formic acid. The mixture is heated at the boiling temperature under reflux for 2 hours. The mixture is evaporated under reduced pressure and the 7-methyl-6-chloro-s-triazolo[4,3-b]pyridazine intermediate product is obtained as a residue. The residue is triturated with diethyl ether, and found to melt at a temperature of 157.5°-158° C.

reactant | 3-chloro-4-methyl-6-hydrazinopyridazine | 0.0845 mole | ClC=1N=NC(=CC1C)NN | C5H7ClN4
reactant | formic acid | C(=O)O | CH2O2
product | 7-methyl-6-chloro-s-triazolo[4,3-b]pyridazine | CC1=CC=2N(N=C1Cl)C=NN2 | C6H5ClN4
